US06495717B1
As purification processes of sorbic acid or its salt, a treatment with activated carbon, recrystallization with water or with a mixture of water and an organic solvent, and distillation purification of a solution of sorbic acid or its salt in petroleum have been known. For example, Japanese Unexamined Patent Application Publication No. 54-163516 discloses a purification process. This process includes the steps of preparing a polyester from ketene and crotonaldehyde, decomposing the polyester with hydrochloric acid in the presence of, for example, a urea compound to yield a decomposition reaction mixture, separating the decomposition reaction mixture by filtration, and washing the residue to yield a crude sorbic acid, adding a sodium hydroxide aqueous solution to the crude sorbic acid to yield a sodium sorbate aqueous solution, treating the aqueous solution with activated carbon, neutralizing the treated solution, and cooling the neutralized solution to crystallize sorbic acid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | sorbic acid | C(\C=C\C=C\C)(=O)O | C6H8O2
product | sodium sorbate | C(\C=C\C=C\C)(=O)[O-].[Na+] | InChI=1S/C6H8O2.Na/c1-2-3-4-5-6(7)8;/h2-5H,1H3,(H,7,8);/q;+1/p-1/b3-2+,5-4+;
